US03947470
Acylation of 2-phenylbenzofuran with 3,5-di-t-butyl-4-hydroxybenzoyl chloride as described above gives 3-(3,5-di-t-butyl-4-hydroxybenzoyl)-2-phenylbenzofuran which, upon reaction with 3-diethylaminopropyl chloride and potassium hydroxide in ethanol according to procedures described above, gives the title compound.

reactant | 2-phenylbenzofuran | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C14H10O
reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
product | 3-(3,5-di-t-butyl-4-hydroxybenzoyl)-2-phenylbenzofuran | C(C)(C)(C)C=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C(C1O)C(C)(C)C | C29H30O3
